US07247734B2
This compounds was synthesised in the same manner as described above. Chlororesorcinol (0.87 g, 6 mmol), phenylacetic acid (0.82 g, 6 mmol), BF3Et2O (4 ml), PCl5 (1.9 g, 9.1 mmol), DMF (5 ml and 10 ml). The pink precipitate formed was filtered and re-crystallized from methanol to give 6-Chloro-7-hydroxy-3-phenyl-chromen-4-one as fine light pink crystals (1.4 g, 85%); Rf 0.6 ethyl acetate/hexane (75/25).

reactant | Chlororesorcinol | 6 mmol, 0.87 g | ClC1=C(O)C=CC=C1O | C6H5ClO2
reactant | phenylacetic acid | 6 mmol, 0.82 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | PCl5 | 9.1 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-7-hydroxy-3-phenyl-chromen-4-one | 1.4 g, 85% | ClC=1C=C2C(C(=COC2=CC1O)C1=CC=CC=C1)=O | C15H9ClO3
